US05817671
5-(N-[2-benzothiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.41 gm (1.8 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.46 gm (2.33 mMol) 2-benzothiophenecarbonyl chloride, 0.32 gm (46%) of the title compound were prepared essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.8 mMol, 0.41 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-benzothiophenecarbonyl chloride | 2.33 mMol, 0.46 gm | S1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClOS
product | 5-(N-[2-benzothiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.32 gm, 46% | S1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C1C(=N2)C(=CN1)C1CCN(CC1)C | C22H22N4OS
